US04830660
Synthesis of 4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole-5-thiol
8.0 g of 5-chloro-4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole was dissolved in 30 ml of dimethylformamide. To the resulting solution was added 6.2 g of sodium hydrosulfide (content of 70%), followed by stirring of the resulting mixture at 60° C. for 1 hour. After completion of the reaction, the reaction mixture was poured into ice water and the resulting solution was made weakly acidic with conc. hydrochloric acid. Crystals precipitated were filtered out, washed and dried to give 7.5 g of the desired compound. m.p.: 155° to 158° C.

reactant | 5-chloro-4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole | 8.0 g | ClC1=C(N=CN1C=1SC=CN1)C(=O)OCC | C9H8ClN3O2S
reactant | sodium hydrosulfide | 6.2 g | [SH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-ethoxycarbonyl-1-(thiazol-2-yl)imidazole-5-thiol | 7.5 g | C(C)OC(=O)C=1N=CN(C1S)C=1SC=CN1 | C9H9N3O2S2
